US06946559B2
Production of 6-bromo-2-cyanopyridine
n-Butylmagnesium chloride (3.49 mmol) in 2.05M tetrahydrofuran solution (1.70 mL) was added to ice-cooled n-butyllithium (7.03 mmol) in 1.45M hexane (4.85 mL). The mixture was stirred at 0° C. for 15 minutes, and cooled to −10° C. to give a suspension. 2,6-Dibromopyridine (2.37 g, 10 mmol) in toluene (25 mL) was added to the suspension below −5° C. over a period of 10 minutes or more. The mixture was stirred at −10° C. for 3 hours, and p-toluenesulfonyl cyanide (2.48 g, 13.3 mmol) was added. After the mixture was stirred at 0° C. for 30 minutes, an aqueous solution (15 mL) of 1M acetic acid was added thereto. The reaction mixture was extracted twice with ethyl acetate (50 mL). The organic extracts combined were washed with an aqueous saturated solution (15 mL) of sodium chloride, dried over magnesium sulfate, and purified by flash column chromatography on silica gel in a developing solvent system of hexane-ethyl acetate (10:1, v/v) to give the title compound (942 mg, about 51% yield) as orange powder.

reactant | n-Butylmagnesium chloride | 3.49 mmol | C(CCC)[Mg]Cl
reactant | n-butyllithium | 7.03 mmol | C(CCC)[Li]
reactant | 2,6-Dibromopyridine | 10 mmol, 2.37 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | p-toluenesulfonyl cyanide | 13.3 mmol, 2.48 g | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
solvent | tetrahydrofuran | 2.05M, 1.70 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.45M, 4.85 mL | CCCCCC | C6H14
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 1M, 15 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-2-cyanopyridine | 942 mg, about 51% yield | BrC1=CC=CC(=N1)C#N | C6H3BrN2
